US07666879B2
D. {4-[3-(4-Aminomethyl-phenyl)-imidazo[1,2-a]pyridin-7-yl]-pyridin-2-ylmethyl}-diethyl-amine tri-hydrochloride
Dissolve {4-[7-(2-diethylaminomethyl-pyridin-4-yl)-imidazo[1,2-a]pyridin-3-yl]-benzyl}-carbamic acid tert-butyl ester (0.24 g, 0.49 mmol) in dioxane (10 mL) under nitrogen. Add 4 M HCl in dioxane (5 mL) to the reaction and stir for 2 hours. Concentrate to dryness and use crude as the tri-HCl salt (0.321 g, crude). MS (ES), m/z 386.2 (M+1).

reactant | {4-[7-(2-diethylaminomethyl-pyridin-4-yl)-imidazo[1,2-a]pyridin-3-yl]-benzyl}-carbamic acid tert-butyl ester | 0.49 mmol, 0.24 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC(=NC=C2)CN(CC)CC)=O | C29H35N5O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | {4-[3-(4-Aminomethyl-phenyl)-imidazo[1,2-a]pyridin-7-yl]-pyridin-2-ylmethyl}-diethyl-amine tri-hydrochloride | Cl.Cl.Cl.NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC(=NC=C2)CN(CC)CC | InChI=1S/C24H27N5.3ClH/c1-3-28(4-2)17-22-13-20(9-11-26-22)21-10-12-29-23(16-27-24(29)14-21)19-7-5-18(15-25)6-8-19;;;/h5-14,16H,3-4,15,17,25H2,1-2H3;3*1H
